Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Lithium / plaster / steris strips
 
Attending: ___.
 
Chief Complaint:
Thyroid nodule, IV hydration prior to thyroidectomy given
diabetes insipidus
 
Major Surgical or Invasive Procedure:
Total thyroidectomy, intraoperative nerve monitoring.

 
History of Present Illness:
Mrs. ___ is a ___ female with history significant for bipolar 
disorder, nephrogenic diabetes insipidus, and thyroid nodule who 
is being admitted to the surgical service prior to her scheduled 
thyroidectomy to receive IV fluids. She was found to have a 
left-sided thyroid nodule during a workup for fatigue. A 
subsequent ultrasound-guided FNA yielded cytology that was 
indeterminate for malignancy. The patient was referred for 
surgical management of her thyroid nodule, and the decision was 
made to undergo a thyroidectomy.

The patient has nephrogenic diabetes insipidus secondary to past 
lithium use, and therefore requires IV hydration while she is 
NPO the night prior to surgery. She recently underwent surgery 
for umbilical hernia repair and was admitted the night prior to 
surgery to receive IV fluids (D5W). She has seen Dr. ___ as 
an outpatient for management of her diabetes insipidus, and has
started on HCTZ which has helped some of her symptoms.
 
Past Medical History:
Past Medical History:
Bipolar disorder (previously treated with lithium)
Diabetes insipidus (secondary to lithium)

Past Surgical History:
Umbilical hernia repair (___)

 
Social History:
___
Family History:
No family history of thyroid cancer. 
 
Physical Exam:
Vitals: 97.6  80  120/79  16  100% RA
Gen: alert and oriented, NAD
HEENT: neck incision with sutures, appears well-healing, clean 
and dry, no hematoma. No stridor.
Heart: regular rate rhythm
Lungs: CTAB. No wheezing. No respiratory distress. 
Abd: soft, nondistended
Ext: warm, no lower extremity edema
 
Pertinent Results:
___ 04:00AM BLOOD Glucose-107* UreaN-19 Creat-1.0 Na-144 
K-3.4 Cl-106 HCO3-28 AnGap-13
___ 07:40AM BLOOD Glucose-98 UreaN-17 Creat-1.1 Na-147* 
K-4.0 Cl-107 HCO3-32 AnGap-12
___ 12:00PM BLOOD Na-143 K-3.9 Cl-108
___ 03:11PM BLOOD Glucose-176* UreaN-15 Creat-1.3* Na-143 
K-3.4 Cl-105 HCO3-31 AnGap-10
___ 11:00PM BLOOD Glucose-126* UreaN-11 Creat-1.1 Na-140 
K-4.1 Cl-101 HCO3-32 AnGap-11
___ 04:00AM BLOOD Glucose-98 UreaN-9 Creat-1.0 Na-143 K-3.5 
Cl-101 HCO3-32 AnGap-14
 
Brief Hospital Course:
Mrs. ___ was admitted to the surgical service prior to her 
scheduled thyroidectomy to receive IV fluids given her 
nephrogenic diabetes insipidus. The renal team was consulted to 
help with fluid management while she would be NPO for surgery. 
She was made NPO after midnight the night prior to surgery, and 
hypotonic fluids were started (D5W at 250cc/hr). Her sodium 
levels and chemistries were monitored every 4 hours during the 
___ period. Her D5W rate was adjusted to keep her 
sodium levels less than 145. Her sodium reached 147, and the 
fluid rate was increased accordingly. 

The patient went to the OR on ___ and underwent total 
thyroidectomy. The patient tolerated the procedure well and 
after an uneventful stay in the PACU, she returned to the floor 
for overnight observation. Her postoperative course was stable. 
Postoperatively she had no voice hoarseness or 
perioral/extremity paresthesias.  Her neck remained soft and 
there were no signs of wound infection or hematoma.  At time of 
discharge she had good pain control on oral pain regimen. She 
was discharged home in good condition and will follow-up with 
Dr. ___ in clinic.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 150 mg PO DAILY 
2. QUEtiapine extended-release 400 mg PO QHS 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. NexIUM (esomeprazole magnesium) 20 mg oral daily prn 
heartburn 
5. Ranitidine 75 mg PO BID:PRN heartburn 
6. Fexofenadine 180 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Prenatal Vitamins 1 TAB PO DAILY 
9. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1. Fexofenadine 180 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Ranitidine 75 mg PO BID:PRN heartburn 
5. Venlafaxine XR 150 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Levothyroxine Sodium 112 mcg PO DAILY 
RX *levothyroxine 112 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3
8. Acetaminophen 1000 mg PO Q6H:PRN pain 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
10. QUEtiapine extended-release 400 mg PO QHS 
11. NexIUM (esomeprazole magnesium) 20 mg oral daily prn 
heartburn 
12. Prenatal Vitamins 1 TAB PO DAILY 
13. Calcium Carbonate 1500 mg PO TID 
RX *calcium carbonate [Tums] 200 mg calcium (500 mg) 3 tablet(s) 
by mouth three times a day Disp #*270 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left thyroid nodule with cytology indeterminate for malignancy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient general surgery unit prior to 
your surgery to receive IV fluids given your condition called 
"diabetes insipidus." You were monitored overnight after your 
total thyroidectomy. You have adequate pain control and have 
tolerated a regular diet and may return home to continue your 
recovery. ___ will be discharged home on thyroid hormone 
replacement (Levothyroxine)and calcium (Tums) supplement, please 
take as prescribed.
Monitor for signs and symptoms of low Calcium such as numbness 
or tingling around mouth or fingertips. If you experience any of 
these signs or symptoms immediately chew 8 Tums, however if your 
symptoms do not improve please call Dr. ___ or go 
to emergency room if you have severe symptoms. You will need to 
have your Calcium level drawn on ___ (the day before 
your follow-up visit).Your blood work can be drawn at ___ 
___ on the ___ floor or outside lab. If your blood is drawn 
at an outside lab then please contact Dr. ___ office with 
the phone and fax number of the lab so we can get the results. 
Your follow-up visit with Dr. ___ is listed below.
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softner such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.You may shower and wash incisions with a mild soap 
and warm water.Avoid swimming and baths until cleared by your 
surgeon.Gently pat the area dry.You have a neck incision but you 
do not have any bandages because you are sensitive to the tape. 
Please use a dry gauze and a light-weight scarf to secure the 
gauze in place to keep your incision covered when you leave the 
house until your follow up appointment with Dr. ___.
Thank you for allowing us to participate in your care. We wish 
you a speedy recovery.
 
 
Followup Instructions:
___